* ngspice KiCad multi-device 74xx models
.subckt 74HC74M _R1 D1 C1 _S1 Q1 _Q1 VGND _Q2 Q2 _S2 C2 D2 _R2 VCC

*
.SUBCKT 74HC74 1PREBAR 1CLRBAR 1CLK 1D 1Q 1QBAR
+     optional:  DPWR=$G_DPWR DGND=$G_DGND
+     params:  MNTYMXDLY=0 IO_LEVEL=0
U1 DFF(1) DPWR DGND
+     1PREBAR 1CLRBAR 1CLK 1D 1Q 1QBAR
+     DLY_HC74 IO_HC MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC74 ueff(tppcqlhTY=20ns tppcqlhMX=46ns tppcqhlTY=20ns
+                 tppcqhlMX=46ns twpclMN=25ns
+                 tpclkqlhTY=20ns tpclkqlhMX=35ns tpclkqhlTY=20ns
+                 tpclkqhlMX=35ns twclkhMN=20ns twclklMN=20ns
+                 tsudclkMN=25ns tsupcclkhMN=6ns)
.ENDS 74HC74

XUA  _S1 _R1 C1 D1 Q1 _Q1 74HC74
XUB  _S2 _R2 C2 D2 Q2 _Q2 74HC74
.ends
